US07728030B2
2,2,2-Trifluoro-N-[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]acetamide
Prepared as described in Example 1 using (1R,2S)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-(3-methoxyphenyl)propan-2-amine (90 mg, 230 μmol) and trifluoroacetic anhydride (98 mg, 460 μmol). Yield 101 mg (90%).

reactant | (1R,2S)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-(3-methoxyphenyl)propan-2-amine | 230 μmol, 90 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C23H22FN3O2
reactant | trifluoroacetic anhydride | 460 μmol, 98 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]acetamide | FC(C(=O)N[C@H]([C@@H](C1=CC(=CC=C1)OC)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C)(F)F | C25H21F4N3O3
